US08563565B2
(2) Synthesis of (S)-t-butyl (1,3-dioxoisoindolin-2-yl)(tetrahydrofuran-3-yl)carbamate
DEAD (11.5 mL) was added dropwise to a solution of (R)-(−)-3-hydroxytetrahydrofuran (CAS No. 86087-24-3) (4.84 g), t-butyl (1,3-dioxoisoindolin-2-yl)carbamate (12 g) and triphenylphosphine (18.0 g) in THF (160 mL) under ice-cooling over five minutes. The reaction mixture was stirred at 0° C. for three minutes and then at room temperature for seven hours and 40 minutes. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 20%) to give the title compound (12.4 g).

reactant | DEAD | 11.5 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (R)-(−)-3-hydroxytetrahydrofuran | O[C@H]1COCC1 | C4H8O2
reactant | t-butyl (1,3-dioxoisoindolin-2-yl)carbamate | 12 g | O=C1N(C(C2=CC=CC=C12)=O)NC(OC(C)(C)C)=O | C13H14N2O4
reactant | triphenylphosphine | 18.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | (S)-t-butyl (1,3-dioxoisoindolin-2-yl)(tetrahydrofuran-3-yl)carbamate | 12.4 g | O=C1N(C(C2=CC=CC=C12)=O)N(C(OC(C)(C)C)=O)[C@@H]1COCC1 | C17H20N2O5
